US07319098B2
Synthesis of 1-(2-{[2-(3-chloro-benzyl)-1,3-dioxo-2,3-dihydro-1H-isoindol-5-carbonyl]-amino}-ethyl)-pyrrolidinium chloride (Compound 83)
2-(3-chloro-benzyl)-1,3-dioxo-2,3-dihydro-1H-isoindol-5-carboxylic acid (100 mg, 0.316 mmol) and 2-pyrrolidin-1-yl-ethylamine (100 μL, 0.792 mmol) were reacted with each other. Target compound in the amount of 108 mg (76%) was obtained by following the procedure described in Example 1.

reactant | 2-(3-chloro-benzyl)-1,3-dioxo-2,3-dihydro-1H-isoindol-5-carboxylic acid | 0.316 mmol, 100 mg | ClC=1C=C(CN2C(C3=CC=C(C=C3C2=O)C(=O)O)=O)C=CC1 | C16H10ClNO4
reactant | 2-pyrrolidin-1-yl-ethylamine | 0.792 mmol, 100 μL | N1(CCCC1)CCN | C6H14N2
product | 1-(2-{[2-(3-chloro-benzyl)-1,3-dioxo-2,3-dihydro-1H-isoindol-5-carbonyl]-amino}-ethyl)-pyrrolidinium chloride | [Cl-].ClC=1C=C(CN2C(C3=CC=C(C=C3C2=O)C(=O)NCC[NH+]2CCCC2)=O)C=CC1 | InChI=1S/C22H22ClN3O3.ClH/c23-17-5-3-4-15(12-17)14-26-21(28)18-7-6-16(13-19(18)22(26)29)20(27)24-8-11-25-9-1-2-10-25;/h3-7,12-13H,1-2,8-11,14H2,(H,24,27);1H
